US06911463B2
{2-[7-(2-Methanesulfonyl-vinyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester is prepared from [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester and methyl vinyl sulfone as described for the preparation of Amine 23 (98%). FDMS m/e=392.2 (M++1).

reactant | [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CS(=O)(=O)C(F)(F)F)(C)C)=O | C19H25F3N2O4S
reactant | methyl vinyl sulfone | C(=C)S(=O)(=O)C | C3H6O2S
product | {2-[7-(2-Methanesulfonyl-vinyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)C=CS(=O)(=O)C)(C)C)=O | C20H28N2O4S
